* c:\users\hp\esim-workspace\cm\cm.cir

.include avsd_opamp.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
x1 net-_i1-pad2_ gnd net-_x1-pad3_ net-_xm1-pad1_ net-_xm1-pad2_ gnd avsd_opamp
x2 net-_u2-pad1_ gnd net-_xm2-pad1_ net-_x1-pad3_ net-_xm3-pad2_ gnd avsd_opamp
i1 net-_i1-pad1_ net-_i1-pad2_  dc 100u
* u1  net-_i1-pad1_ net-_xm1-pad1_ plot_i2
v3 net-_u2-pad1_ gnd  dc 1.8
v1 net-_x1-pad3_ gnd  dc 1.8
v2 net-_i1-pad2_ gnd  dc 1.8
* u2  net-_u2-pad1_ net-_xm3-pad1_ plot_i2
xm3  net-_xm3-pad1_ net-_xm3-pad2_ net-_xm2-pad1_ net-_xm2-pad1_ esim_mos_n
xm1  net-_xm1-pad1_ net-_xm1-pad2_ gnd gnd esim_mos_n
xm2  net-_xm2-pad1_ net-_xm1-pad2_ gnd gnd esim_mos_n
* s c m o d e
v_u1 net-_i1-pad1_ net-_xm1-pad1_ 0
v_u2 net-_u2-pad1_ net-_xm3-pad1_ 0
.tran 5e-03 30e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot i(v_u1)
plot i(v_u2)
.endc
.end
